US07442805B2
Synthesis of 1-benzyl-5-[(phenylsulfonyl)amino]-1H,1′H-3,5′-biindole-2-carboxylic acid
The title compound was prepared from ethyl 5-amino-1-benzyl-1H,1′H-3,5′-biindole-2-carboxylate and phenylsulfonyl chloride followed the procedure of Example 1 Step 3 as a gray solid: 1H NMR (DMSO-d6) δ 5.75 (s, 2H, 6.46 (t, J=2.0 Hz, 1H, 6.99 (dd, J=8.3, 2.0 Hz, 1H, 7.00-7.10 (m, 4H, 7.18-7.32 (m, 3H, 7.36-7.46 (m, 3H, 7.45-7.55 (m, 3H), 7.60-7.68 (m, 3H, 9.88 (s, 1H, 11.14 (s, 1H, 12.80 (br s, 1H; MS (ESI) m/z 522 (MH+); MS (ESI) m/z 520 [M-H]−; HRMS calcd for C30H24N3O4S: 522.1485; found (ESI+): 522.1473; Anal. calcd for C30H23N3O4S.0.5H2O.0.5 ACN: C, 67.56; H, 4.66; N, 8.90. Found: C, 67.54; H, 4.57; N, 8.76.

reactant | ethyl 5-amino-1-benzyl-1H,1′H-3,5′-biindole-2-carboxylate | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C=1C=C2C=CNC2=CC1 | C26H23N3O2
reactant | phenylsulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | ACN | C(C)#N | C2H3N
product | 1-benzyl-5-[(phenylsulfonyl)amino]-1H,1′H-3,5′-biindole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC=C1)C=1C=C2C=CNC2=CC1)C(=O)O | C30H23N3O4S
